US07399759B2
Ethyl 6-{[5-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]oxy}hexanoate
A mixture of methyl thiosalicylate (0.71 g, 4.2 mmol), ethyl 6-(5-cyanopyridin-2-yl)oxyhexanoate (1.00 g, 3.8 mmol), triethylamine (0.63 ml, 4.5 mmol) and toluene (12 ml) was refluxed under nitrogen atmosphere for 30 hrs. The reaction mixture was concentrated. The residue was subjected to a silica gel column chromatography, eluted with ethyl acetate-hexane (2:1, v/v) and recrystallized from ethyl acetate-isopropylether to give the titled compound (0.22 g, 14%).

reactant | methyl thiosalicylate | 4.2 mmol, 0.71 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | ethyl 6-(5-cyanopyridin-2-yl)oxyhexanoate | 3.8 mmol, 1.00 g | C(#N)C=1C=CC(=NC1)OCCCCCC(=O)OCC | C14H18N2O3
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 6-{[5-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]oxy}hexanoate | 0.22 g, 14% | O=C1N=C(SC2=C1C=CC=C2)C=2C=CC(=NC2)OCCCCCC(=O)OCC | C21H22N2O4S
